US06118016
A solution of 7.48 g (15.1 mmol) of 3-[[4-(4-fluorophenoxy)benzenesulfonyl]-(1-hydroxycarbamoylcyclopentyl)amino]propionic acid ethyl ester in dichloromethane was concentrated by rotary evaporation with the addition of 75 mL of toluene. This solution was treated with 75 mL of water, cooled to 0° C., and treated with 6.05 g (151 mmol, 10 equivalents) of sodium hydroxide pellets over 10 minutes with vigorous stirring. This mixture was stirred for 15 minutes at 0° C. and warmed to ambient temperature over one hour. The aqueous phase was separated, diluted with 7.5 mL of tetrahydrofuran, cooled to 0° C., and treated with 33 mL of 6N aqueous hydrochloric acid over 20 minutes. This mixture was stirred with 75 mL of ethyl acetate at 0° C. to ambient temperature, and the ethyl acetate phase was separated and washed with water. The ethyl acetate solution was slowly treated with 150 mL of hexanes at ambient temperature causing solids to precipitate, and stirred overnight. Filtration yielded 5.01 g of 3-[[4-(4-fluorophenoxy)benzenesulfonyl]-(1-hydroxycarbamoylcyclopentyl)amino]propionic acid as a white solid (71% yield from 1-{(2-ethoxycarbonylethyl)-[4-(4-fluorophenoxy)benzenesulfonyl]amino}cyclopentanecarboxylic acid).

reactant | 3-[[4-(4-fluorophenoxy)benzenesulfonyl]-(1-hydroxycarbamoylcyclopentyl)amino]propionic acid ethyl ester | 15.1 mmol, 7.48 g | C(C)OC(CCN(C1(CCCC1)C(NO)=O)S(=O)(=O)C1=CC=C(C=C1)OC1=CC=C(C=C1)F)=O | C23H27FN2O7S
reactant | toluene | 75 mL | C1(=CC=CC=C1)C | C7H8
reactant | water | 75 mL | O | H2O
reactant | sodium hydroxide | 151 mmol, 6.05 g, 10 equivalents | [OH-].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-[[4-(4-fluorophenoxy)benzenesulfonyl]-(1-hydroxycarbamoylcyclopentyl)amino]propionic acid | 5.01 g, 71% yield | FC1=CC=C(OC2=CC=C(C=C2)S(=O)(=O)N(CCC(=O)O)C2(CCCC2)C(NO)=O)C=C1 | C21H23FN2O7S
